US08466289B2
Synthesis of 1-(2,3-Dihydroxy-propyl)-cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-8-yl]-amide (10A)
Osmium tetra oxide (8 mg, 0.003 mmol), N-methyl morpholine (8 mg, 0.068 mmol) and water (0.5 mL) were added to a stirred solution of 1-allyl-cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-8-yl]-amide (I-9a: 0.04 g, 0.073 mmol) in THF (5 mL). The resulting mixture was stirred at room temperature overnight. The reaction was monitored by TLC (5% MeOH in DCM). The reaction mixture was partitioned between ethylacetate and water. The organic layer was washed with water, brine solution, dried over Na2SO4 and concentrated. Purification by thin layer chromatography on silica gel (5% MeOH in DCM) afforded 0.005 g of the product (11% yield).

reactant | N-methyl morpholine | 0.068 mmol, 8 mg | CN1CCOCC1 | C5H11NO
reactant | water | 0.5 mL | O | H2O
reactant | 1-allyl-cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-8-yl]-amide | 0.073 mmol, 0.04 g | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCO2)NS(=O)(=O)C2(CC2)CC=C | C20H21FIN3O4S
reactant | MeOH | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | Osmium tetra oxide | 0.003 mmol, 8 mg | [Os](=O)(=O)(=O)=O
product | 1-(2,3-Dihydroxy-propyl)-cyclopropanesulfonic acid [7-(2-fluoro-4-iodo-phenylamino)-6-methyl-5-oxo-2,3-dihydro-5H-oxazolo[3,2-a]pyridin-8-yl]-amide | 0.005 g, 11% yield | FC1=C(C=CC(=C1)I)NC=1C(=C2N(C(C1C)=O)CCO2)NS(=O)(=O)C2(CC2)CC(CO)O | C20H23FIN3O6S
